US07723347B2
4-[(3-Chloro-1H-pyrrolo[2,3-b]pyridin-4-yl)methyl]-3-fluoraniline
567 mg (1.13 mmol) of N-{4-[(3-chloro 1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrrolo[2,3-b]pyridin-4-yl)methyl]-3-fluorophenyl}-2,2,2-trifluoroacetamide are dissolved in 5 ml of dichloromethane. 5 ml (65 mmol) of trifluoroacetic acid are added, and the mixture is stirred at RT for 3 h. The mixture is then concentrated, EA is added and the mixture is washed with sat. sodium carbonate solution. The organic phase is dried over sodium sulfate and concentrated. The residue is taken up in 35 ml of THF, and 15 ml of water and 542 mg (22.7 mmol) of lithium hydroxide are added. The mixture is stirred at RT for 20 h. The mixture is then concentrated under reduced pressure, and the residue is diluted with water. The mixture is extracted with ethyl acetate and the extract is dried over sodium sulfate and concentrated. The residue is purified by chromatography on silica gel (mobile phase dichloromethane:methanol 25:1). This gives crystals.

reactant | N-{4-[(3-chloro 1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrrolo[2,3-b]pyridin-4-yl)methyl]-3-fluorophenyl}-2,2,2-trifluoroacetamide | 1.13 mmol, 567 mg | ClC1=CN(C2=NC=CC(=C21)CC2=C(C=C(C=C2)NC(C(F)(F)F)=O)F)COCC[Si](C)(C)C | C22H24ClF4N3O2Si
reactant | trifluoroacetic acid | 65 mmol, 5 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | water | 15 ml | O | H2O
reactant | lithium hydroxide | 22.7 mmol, 542 mg | [OH-].[Li+]
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | 4-[(3-Chloro-1H-pyrrolo[2,3-b]pyridin-4-yl)methyl]-3-fluoraniline | ClC1=CNC2=NC=CC(=C21)CC2=C(C=C(N)C=C2)F | C14H11ClFN3
